US05700824
Preparation of 3-(2-chloro-6-fluorophenyl)-5-(3-chloro-4-methylphenyl)-1-methyl-1H-1,2,4-triazole
A mixture of N-methyl-N-(p-toluenesulfonyl)-2-chloro-6-fluorobenzohydrazonoyl chloride (7.50 g), 3-chloro-4-methylbenzonitrile (3.33 g), anhydrous aluminum chloride (3.00 g) and o-dichlorobenzene (20 ml) is stirred at an oil bath temperature of 140° C. for 1 hour. After cooling, it is washed with saline. Then, it is dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate is purified by silica gel column chromatography using mixed solvent of hexane-ethyl acetate as eluent to give 3.70 g of desired compound.

reactant | N-methyl-N-(p-toluenesulfonyl)-2-chloro-6-fluorobenzohydrazonoyl chloride | 7.50 g | CN(N=C(C1=C(C=CC=C1F)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)C | C15H13Cl2FN2O2S
reactant | 3-chloro-4-methylbenzonitrile | 3.33 g | ClC=1C=C(C#N)C=CC1C | C8H6ClN
reactant | aluminum chloride | 3.00 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | o-dichlorobenzene | 20 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-(2-chloro-6-fluorophenyl)-5-(3-chloro-4-methylphenyl)-1-methyl-1H-1,2,4-triazole | 3.70 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CC(=C(C=C1)C)Cl)C | C16H12Cl2FN3
